US07439263B2
Step B: Spiro[5.5]undecan-3-one oxime
70 ml of pyridine and 3.45 g of hydroxylamine hydrochloride are added to 39 mmol of the compound obtained in the above Step in solution in dioxane. The reaction mixture is then heated at reflux overnight and subsequently concentrated to dryness to yield an oil, which crystallises and which is washed with water to yield the expected product in the form of a powder after filtration and drying.

reactant | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 3.45 g | Cl.NO
reactant | dioxane | O1CCOCC1 | C4H8O2
product | Spiro[5.5]undecan-3-one oxime | C1CC(CCC12CCCCC2)=NO | C11H19NO
